US07335658B2
SYNTHESIS OF 6-PIPERAZIN-1-YL-PYRIDAZINE-3-CARBOXYLIC Acid (2-CYCLOPROPYLETHYL)AMIDE
A mixture of piperazine (1.48 g, 17.2 mmol) and 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (1.29 g, 5.73 mmol) in acetonitrile (60 mL) was heated at reflux for 16 hours. After the reaction mixture was cooled, the gummy material was diluted with dichloromethane (50 mL), washed with water (2×20 mL), dried over MgSO4. After filtration, the filtrate was concentrated in vacuo. The crude material was purified by column chromatography eluting with dichloromethane (100%) then with methanol:dichloromethane (1:9) to obtain 1.18 g (75%) of the product as a solid.

reactant | piperazine | 17.2 mmol, 1.48 g | N1CCNCC1 | C4H10N2
reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 5.73 mmol, 1.29 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-PIPERAZIN-1-YL-PYRIDAZINE-3-CARBOXYLIC Acid (2-CYCLOPROPYLETHYL)AMIDE | 1.18 g, 75% | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
